Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Subdural hematoma, IPH
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ ___ transferred from OSH with R convexity and
parafalcine subacute subdural hematoma/IPH. Last seen normal
around noon started to develop a left facial droop in the
afternoon along with left-sided weakness and confusion. 
Intubated
at OSH and transferred here.
 
Past Medical History:
CLL
 
Social History:
___
Family History:
unknown
 
Physical Exam:
On Admission:
PHYSICAL EXAM:
BP 112/56, RR 27, HR 90, AF
Gen: Intubated
HEENT: Pupils: R 3 mm, sluggishly reactive, L surgical pupil,
conjugate gaze
Neck: Supple
Lungs: CTA bilaterally
Cardiac: RRR. S1/S2
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused
Neuro:
Mental status: E1VTM4
R 3 mm, sluggishly reactive, L surgical pupil, conjugate gaze.
Good cough and gag
Withdraws to pain x 4, RUE, RLE > LUE, LLE
Unable to elicit reflexes in the UE, normoreflexic ___ patella

On Discharge:
Deceased
 
Pertinent Results:
___ CHEST PORT LINE/TUBE PL  
1. Endotracheal and enteric tubes in standard positions.  \ 
2. Widening of the superior mediastinum and right paratracheal 
stripe as well as bilateral hilar prominence concerning for 
underlying lymphadenopathy. 
3. Stellate right basilar opacity could reflect atelectasis or 
scarring, but underlying mass is not excluded.  Further 
assessment with chest CT is 
recommended, if none has recently been performed. 

___ CTA HEAD & CTA NECK
Wet Read by ___ on SAT ___ 9:16 ___ 
Noncontrast CT head: The known right cerebral convexity subdural 
hematoma has expanded in size compared with the outside hospital 
CT head from earlier  today. It now measures approximately 2.1 
cm in thickness, with increased leftward shift of normally 
midline structures, proximally 1.7 cm from 0.8 cm previously. 
There is associated edema. The quadrigeminal plate cistern is 
patent. The suprasellar cistern appears mildly effaced on the 
right, concerning for impending herniation. 
  
CTA head and neck: There is a 7 x 5 mm aneurysm along the right 
lateral 
cerebral convexity, in the region of the parietal lobe (5:263). 
It is thought to arise from a fourth order branch of the right 
MCA. The remaining circle of ___ and its principal 
intracranial branches appear patent, without occlusion or 
dissection. The cervical carotid and vertebral arteries appear 
patent, without evidence of occlusion or dissection. 
  
Enlarged, heterogeneous thyroid gland, which warrants further 
evaluation with nonemergent thyroid ultrasound. Severe 
mediastinal lymphadenopathy, in keeping with known history of 
CLL. 

___ 10:15PM   PLT COUNT-26*#
___ 07:35PM URINE  HOURS-RANDOM
___ 07:35PM URINE  HOURS-RANDOM
___ 07:35PM URINE  GR HOLD-HOLD
___ 07:35PM URINE  bnzodzpn-POS* barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 07:35PM   PO2-40* PCO2-45 PH-7.36 TOTAL CO2-26 BASE 
XS-0 INTUBATED-INTUBATED
___ 07:35PM   GLUCOSE-180* LACTATE-1.7 NA+-127* K+-4.0 
CL--101
___ 07:35PM   HGB-7.7* calcHCT-23 O2 SAT-67 CARBOXYHB-2 MET 
HGB-0
___ 07:35PM   freeCa-1.24
___ 07:35PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 07:35PM URINE  RBC-1 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 07:35PM URINE  GRANULAR-3* HYALINE-1*
___ 07:35PM URINE  MUCOUS-RARE
___ 07:24PM   UREA N-18 CREAT-0.6
___ 07:24PM   estGFR-Using this
___ 07:24PM   LIPASE-27
___ 07:24PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:24PM   WBC-3.3* RBC-2.96* HGB-7.1* HCT-23.6* MCV-80* 
MCH-24.0* MCHC-30.1* RDW-17.1* RDWSD-49.1*
___ 07:24PM   PLT SMR-RARE PLT COUNT-15*
___ 07:24PM   ___ PTT-27.8 ___
___ 07:24PM   ___
 
Brief Hospital Course:
On ___, Ms. ___ was transferred to ___ from ___ 
___ after CT revealed a right convexity and parafalcine 
subdural hematoma and intraparenchymal hemorrhage.  Prior to 
transfer, the patient was intubated for airway protection.  

On arrival, the patient received 2 units of platelets. CTA head 
and neck were obtained which showed an increase in size of the 
right cerebral convexity subdural hematoma and increased midline 
shift with associated edema.  No neurosurgical intervention was 
recommended.  The patient was admitted to the SICU, where a 
goals of care discussion was held with the patietn's family.  
The decision was made to withdraw care and pursue comfort 
measures.

On ___, the patient remained on comfort measures.  She was 
transferred out of the ICU to the floor, where she expired with 
family present at bedside.
 
Medications on Admission:
unknown
 
Discharge Medications:
deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased

 
Discharge Condition:
Deceased

 
Discharge Instructions:
Deceased
 
Followup Instructions:
___